### PR TITLE
[Merged by Bors] - feat(Analysis/Asymptotics/ExpGrowth): Exponential growth and composition

### PR DESCRIPTION
**Pull request by D-Thomine**
This PR adds lemmas about the exponential growth of a composition `u ∘ v` depending on the exponential growth of `u` and the linear growth of `v`.

Most new stuff is in `Analysis.Asymptotics.ExpGrowth` (mostly sections _Composition_ and _Monotone sequences_). I also slightly modified the four lemmas `expGrowthInf_le_iff`, `le_expGrowthInf_iff`, etc. to use large inequalities instead of strict inequalities (it's more comfortable for me).

In `Data.Real.EReal`: A new lemma (the inversion is antitone on the positives), and a small tweak to three lemmas (`exists_lt_mul_left_of_nonneg`...), making them slightly stronger; their old use is not impacted, and the improvement makes some new proofs slightly nicer.

In `Order.LiminfLimsup`: A few new lemmas about: liminf and limsup of compositions, versions with large inequalities of `limsup_le_iff` and friends, and a way to compare liminf & limsup of two functions. I've also squeezed some life out of `isBoundedUnder_le_mul_of_nonneg` by replacing an eventual condition with a frequent condition; the new version is not _strictly_ more general, but the cases which are not covered anymore don't seem really interesting (empty filter or weird structures), so the trade-off feels favorable.

In `Topology.Algebra.Order.LiminfLimsup`: Again, some eventual conditions are replaced by frequent conditions (about the limsup of a product on the reals).

In `Topology.Instances.EReal.Lemmas`: Again, some eventual conditions are replaced by frequent conditions (about the limsup of a product on the extended reals).

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/Asymptotics/ExpGrowth.lean [hunk 1]
```diff
@@ -314,4 +364,295 @@ lemma expGrowthSup_sum {α : Type*} (u : α → ℕ → ℝ≥0∞) (s : Finset
   | @insert a t a_t ha => rw [Finset.sum_insert a_t, expGrowthSup_add, ← Finset.iSup_coe,
     Finset.coe_insert a t, iSup_insert, Finset.iSup_coe, ha]
 
+/-! ### Composition -/
+
+private lemma linGrowthInf_nonneg (v : ℕ → ℕ) : 0 ≤ atTop.liminf fun n ↦ (v n : EReal) / n :=
+  (le_liminf_of_le) (Eventually.of_forall fun n ↦ div_nonneg (v n).cast_nonneg' n.cast_nonneg')
+
+private lemma EReal.exists_nat_ge_mul {a : EReal} (ha : a ≠ ⊤) (n : ℕ) :
```
Comment (sgouezel) [inline Mathlib/Analysis/Asymptotics/ExpGrowth.lean:372]: Maybe move this one to the ereal file?

File: Mathlib/Analysis/Asymptotics/ExpGrowth.lean [hunk 2]
```diff
@@ -314,4 +364,295 @@ lemma expGrowthSup_sum {α : Type*} (u : α → ℕ → ℝ≥0∞) (s : Finset
...
+  | ⊤ => ha.irrefl.rec
+  | ⊥ => ⟨0, Nat.cast_zero (R := EReal) ▸ mul_nonpos_iff.2 (.inr ⟨bot_le, n.cast_nonneg'⟩)⟩
+  | (a : ℝ) => by
+    obtain ⟨m, an_m⟩ := exists_nat_ge (a * n)
+    use m
+    rwa [← coe_coe_eq_natCast n, ← coe_coe_eq_natCast m, ← EReal.coe_mul, EReal.coe_le_coe_iff]
+
+private lemma tendsto_atTop_of_linGrowthInf_pos {v : ℕ → ℕ}
+    (h : (atTop.liminf fun n ↦ (v n : EReal) / n) ≠ 0) :
+    atTop.Tendsto v atTop := by
```
Comment (sgouezel) [inline Mathlib/Analysis/Asymptotics/ExpGrowth.lean:384]: We prefer `Tendsto v atTop atTop`, to follow more closely the mathematical phrasing (same thing for `liminf` and `limsup`, by the way)

**Review by sgouezel — COMMENTED** [review]
Could you merge master and fix the conflict?

File: Mathlib/Analysis/Asymptotics/ExpGrowth.lean [hunk 3]
```diff
@@ -65,37 +61,83 @@ lemma expGrowthInf_le_expGrowthSup {u : ℕ → ℝ≥0∞} :
...
+  rw [expGrowthSup, le_limsup_iff']
   refine forall₂_congr fun b _ ↦ frequently_congr (eventually_atTop.2 ⟨1, fun n _ ↦ ?_⟩)
-  rw [EReal.lt_div_iff (by norm_cast) (natCast_ne_top n)]
-  nth_rw 1 [← EReal.log_exp (b * n)]
-  exact logOrderIso.lt_iff_lt
+  nth_rw 1 [le_div_iff_mul_le (by norm_cast) (natCast_ne_top n), ← log_exp (b * n)]
+  exact logOrderIso.le_iff_le
+
+/- Forward direction of `expGrowthInf_le_iff`. -/
+lemma frequently_le_exp {u : ℕ → ℝ≥0∞} {a : EReal} (h : expGrowthInf u < a) :
```
[the remark this answers is not in the document]
Comment (D-Thomine) [reply Mathlib/Analysis/Asymptotics/ExpGrowth.lean]: Done (extensively in the file, in two sections).

File: Mathlib/Analysis/Asymptotics/ExpGrowth.lean [hunk 4]
```diff
@@ -314,4 +364,295 @@ lemma expGrowthSup_sum {α : Type*} (u : α → ℕ → ℝ≥0∞) (s : Finset
   | @insert a t a_t ha => rw [Finset.sum_insert a_t, expGrowthSup_add, ← Finset.iSup_coe,
     Finset.coe_insert a t, iSup_insert, Finset.iSup_coe, ha]
 
+/-! ### Composition -/
+
+private lemma linGrowthInf_nonneg (v : ℕ → ℕ) : 0 ≤ atTop.liminf fun n ↦ (v n : EReal) / n :=
```
[the remark this answers is not in the document]
Comment (D-Thomine) [reply Mathlib/Analysis/Asymptotics/ExpGrowth.lean]: They felt a bit too specialized for me, and I didn't want to clutter other files. But if you think they can be useful in other contexts, that's enough for me.

Done.

File: Mathlib/Analysis/Asymptotics/ExpGrowth.lean (hunk 2 above)
Comment (D-Thomine) [reply Mathlib/Analysis/Asymptotics/ExpGrowth.lean]: Done.

File: Mathlib/Analysis/Asymptotics/ExpGrowth.lean (hunk 1 above)
Comment (D-Thomine) [reply Mathlib/Analysis/Asymptotics/ExpGrowth.lean]: Done.

File: Mathlib/Order/Filter/IsBounded.lean [hunk 5]
```diff
@@ -396,19 +396,23 @@ end add_and_sum
 
 section mul
 
-lemma isBoundedUnder_le_mul_of_nonneg [Mul α] [Zero α] [Preorder α] [PosMulMono α]
-    [MulPosMono α] {f : Filter ι} {u v : ι → α} (h₁ : 0 ≤ᶠ[f] u)
-    (h₂ : IsBoundedUnder (fun x1 x2 ↦ x1 ≤ x2) f u)
-    (h₃ : 0 ≤ᶠ[f] v)
+lemma isBoundedUnder_le_mul_of_nonneg [LinearOrder α] [MulZeroClass α] [PosMulMono α]
```
Comment (sgouezel) [inline Mathlib/Order/Filter/IsBounded.lean:399]: You are strengthening the typeclasses. Is your statement/proof still true under the weaker typeclasses?

File: Mathlib/Analysis/Asymptotics/ExpGrowth.lean [hunk 6]
```diff
@@ -314,4 +347,297 @@ lemma expGrowthSup_sum {α : Type*} (u : α → ℕ → ℝ≥0∞) (s : Finset
...
+    rw [comp_apply]; exact h' (v n)
+  · replace h' := (not_frequently.1 h1).mono fun _ hn ↦ le_of_not_le hn
+    apply le_antisymm
+    · rw [← hv.limsup_eq] at ha ha' ⊢
+      exact h.expGrowthInf_comp_le ha ha'
+    · rw [← hv.liminf_eq]
+      exact le_expGrowthInf_comp h' v_top
+
+lemma _root_.Monotone.expGrowthSup_comp {a : EReal} (hu : Monotone u)
+    (hv : Tendsto (fun n ↦ (v n : EReal) / n) atTop (nhds a)) (ha : a ≠ 0) (ha' : a ≠ ⊤) :
```
Comment (sgouezel) [inline Mathlib/Analysis/Asymptotics/ExpGrowth.lean:599]:
```suggestion
    (hv : Tendsto (fun n ↦ (v n : EReal) / n) atTop (𝓝 a)) (ha : a ≠ 0) (ha' : a ≠ ⊤) :
```
(you need to `open scoped Topology`)

Same thing several times in this file.

**Review by sgouezel — COMMENTED** [review]
This looks great, thanks!
bors d+

File: Mathlib/Analysis/Asymptotics/ExpGrowth.lean (hunk 6 above)
Comment (D-Thomine) [reply Mathlib/Analysis/Asymptotics/ExpGrowth.lean]: Done.
